US07262201B1
3-(4-Fluorophenyl)-4,5-dihydro-1H-pyrazol-5-one (222 mg, 1.25 mmol) was added in portions over 10 minutes to a suspension of sodium hydride (50 mg, 1.25 mmol, prewashed with hexane) in DMF (3 ml) under nitrogen. After stirring for 20 minutes at ambient temperature, 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (169 mg, 0.5 mmol), (prepared as described for the starting material in Example 2), was added and the mixture was heated at 60° C. for 1 hour. After cooling, the mixture was diluted with aqueous ammonium chloride solution and ether was added. The precipitate was collected by filtration, washed with water, and dried under vacuum. The solid was dissolved in methylene chloride/methanol (1/1) and 4M ethereal hydrogen chloride (0.5 ml) was added. After removal of the solvent by evaporation, the solid was triturated with ether, collected by filtration and dried under vacuum to give 4-(5-(4-fluorophenyl)pyrazol-3-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride (115 mg, 48%).

reactant | 3-(4-Fluorophenyl)-4,5-dihydro-1H-pyrazol-5-one | 1.25 mmol, 222 mg | FC1=CC=C(C=C1)C1=NNC(C1)=O | C9H7FN2O
reactant | sodium hydride | 1.25 mmol, 50 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.5 mmol, 169 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 4-(5-(4-fluorophenyl)pyrazol-3-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride | 115 mg, 48% | Cl.FC1=CC=C(C=C1)C1=CC(=NN1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | InChI=1S/C25H26FN5O4.ClH/c1-32-22-13-19-21(14-23(22)34-10-2-7-31-8-11-33-12-9-31)27-16-28-25(19)35-24-15-20(29-30-24)17-3-5-18(26)6-4-17;/h3-6,13-16H,2,7-12H2,1H3,(H,29,30);1H
